US05750576
Z-1-[4-(2-benzyloxyethoxy)-phenyl]-4-chloro-1,2-diphenyl-but-1-ene
Z-4-[4-(2-benzyloxyethoxy)-phenyl]-3,4-diphenyl-but-3-en-1-ol prepared in the previous stage was dissolved in acetonitrile (400 ml). Triphenyl phosphine (103.5 g, 0.4 mol) and tetrachloromethane (120 g, 0.79 mol) were added and the mixture was refluxed for 2 hours. Then the mixture was evaporated to dryness under reduced pressure. The residue was dissolved in methanol (160 ml) and water (40 ml) and extracted three times with petroleum ether (3×200 ml) at boiling point. Petroleum ether layers were combined and evaporated to dryness under reduced pressure. The residue was crystallized twice from ethanol (700 ml). Yield 36 g.

reactant | Z-4-[4-(2-benzyloxyethoxy)-phenyl]-3,4-diphenyl-but-3-en-1-ol | C(C1=CC=CC=C1)OCCOC1=CC=C(C=C1)\C(=C(\CCO)/C1=CC=CC=C1)\C1=CC=CC=C1 | C31H30O3
reactant | Triphenyl phosphine | 0.4 mol, 103.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetrachloromethane | 0.79 mol, 120 g | ClC(Cl)(Cl)Cl | CCl4
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
product | Z-1-[4-(2-benzyloxyethoxy)-phenyl]-4-chloro-1,2-diphenyl-but-1-ene | C(C1=CC=CC=C1)OCCOC1=CC=C(C=C1)\C(=C(\CCCl)/C1=CC=CC=C1)\C1=CC=CC=C1 | C31H29ClO2
